US06982278B2
{2-Ethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}acetic acid
A solution of {2-ethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}acetic acid ethyl ester (0.22 g, 0.54 mmol) in ethanol (10 mL) was treated with 2.5 N aqueous NaOH (0.4 mL), and heated at 55° C. for 2 h. The reaction was cooled to ambient temperature and concentrated down to near dryness. The residue was then diluted with EtOAc (40 mL) and water (20 mL) and acidified to pH=1 with 1N aqueous HCl. The organic layer was washed with brine (20 mL), dried (Na2SO4) and concentrated in vacuo to give a white solid (0.18 g, 87%). 1H NMR (400 MHz, CDCl3) δ 7.97 (dd, J=8.3, 2.9 Hz, 2H), 7.44-7.41 (m, 3H), 6.75 (d, J=2.9 Hz, 1H), 6.69-6.60 (m, 2H), 4.60 (s, 2H), 4.14 (t, J=6.6 Hz, 2H), 2.98 (t, J=6.60 Hz, 2H), 2.65 (q, J=7.5 Hz, 2H), 2.38 (s, 3H), 1.19 (t, J=7.6 Hz, 3H); MS (FIA) m/e 382 (M+1).

reactant | {2-ethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}acetic acid ethyl ester | 0.54 mmol, 0.22 g | C(C)OC(COC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CC)=O | C24H27NO5
reactant | NaOH | 2.5 N, 0.4 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | {2-Ethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}acetic acid | 0.18 g, 87% | C(C)C1=C(OCC(=O)O)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C22H23NO5
